Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of HTN, HLD, 
CAD, paroxysmal afib, hemorrhagic stroke, renal transplant in 
___ on tacrolimus, diverticulosis, c. diff, UTIs, chronic back 
pain and wheelchair bound at baseline on hospice who presents 
with 3 days of nausea, emesis, diarrhea and worsening lower 
abdominal pain.
She reports being in usual state of health at ___ 
until ___ days ago when she had nausea and emesis. She reports 
some diarrhea (no longer having diarrhea) and acute on chronic 
abdominal pain. No fevers, but does have chills. No urinary 
symptoms, chest pain, shortness of breath, or lightheadedness.
In the ED, she was afebrile and hypertensive to 150s/80s-90s 
satting well on room air. She had bilateral CVA tenderness, 
diffuse abdominal tenderness, worse in lower abdomen. CT 
abdomen/pelvis was done and negative for acute intra-abdominal 
process. Labs were notable for Cr at 1.3 baseline and WBC 7.4 
with 78.9 PMNs. UA revealed large leukocyte and negative 
nitrite, with 31 WBC and few bacteria. She was given meropenem, 
IV fluids, rosuvastatin, Zofran, and sucralfate. Renal 
transplant was consulted, and she was admitted for further 
management.

On arrival to the floor, patient reports continued abdominal 
pain.

 
Past Medical History:
-s/p cadaveric renal transplant: ___,
-ESRD ___ chronic reflux nephropathy, baseline Cr 1.3
-acute interstitial nephritis ___ presumably from ranitidine
-polyneuropathy in renal disease
-anemia of chronic disease
-CAD: NSTEMI ___, s/p cardiac cath without intervention
-paroxysmal atrial fibrillation
-hypertension
-hyperlipidemia
-diastolic dysfunction
-h/o DVT
-hypothyroidism
-osteopenia ___ chronic steroid use
-s/p craniotomy for intracranial hemorrhage
-GERD
-osteonecrosis of bilateral feet c/b osteomyelitis
-osteonecrosis of L hip requiring surgical intervention and
girdlestone procedure
-s/p cholecystecomy, s/p appendectomy
-small intestinal adenoma with endoscopic resection c/b bowel
perforation requiring ex-lap in ___
-cataract surgery
-MRSA osteomyelitis ___
-h/o C.diff
-recurrent urinary tract infection
-panic disorder associated with sexual trauma at age ___
-hearing loss of both ears
-h/o depression
-h/o duodenal polyps
-chronic pain (polyosteoarthritis, osteonecrosis of L hip,
osteoarthritis of R hip, spinal stenosis, low back pain with
sciatica)
-h/o herpes zoster

 
Social History:
___
Family History:
Father died of CAD at age ___. 
Mother died young of unknown causes.
 
Physical Exam:
ADMISSION:
VS: 98.1 155/79 81 18 96
GENERAL: No apparent distress, resting comfortably
HEENT: Mucous membranes dry
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
ABDOMEN: nondistended, diffusely tender mostly in lower abdomen, 
no rebound/guarding, no hepatosplenomegaly
GU: no CVA tenderness
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: no gross motor or coordination abnormalities
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE:
Temp: 98.0 PO BP: 128/73 HR: 79 RR: 18 O2 sat: 92%
O2 delivery: Ra 
GENERAL: No apparent distress
HEENT: OP clear, MMM
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB 
ABDOMEN: soft, nondistended, mildly diffusely tender mostly in
lower abdomen but distractible, no rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: no gross motor or coordination abnormalities
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
ADMISSION:
___ 06:34PM   WBC-7.4 RBC-4.58 HGB-13.1 HCT-42.9 MCV-94 
MCH-28.6 MCHC-30.5* RDW-14.6 RDWSD-50.4*
___ 06:34PM   GLUCOSE-92 UREA N-19 CREAT-1.3* SODIUM-135 
POTASSIUM-7.0* CHLORIDE-93* TOTAL CO2-27 ANION GAP-15
___ 06:34PM   ALT(SGPT)-15 AST(SGOT)-74* ALK PHOS-72 TOT 
BILI-0.5
___ 06:34PM   LIPASE-20
___ 06:34PM   ALBUMIN-4.2
___ 06:34PM   tacroFK-6.9

DISCHARGE:
___ 05:02AM BLOOD WBC-7.5 RBC-4.27 Hgb-12.3 Hct-39.4 MCV-92 
MCH-28.8 MCHC-31.2* RDW-14.2 RDWSD-48.0* Plt ___
___ 05:02AM BLOOD Glucose-92 UreaN-24* Creat-1.2* Na-134* 
K-4.1 Cl-92* HCO3-27 AnGap-15
___ 05:02AM BLOOD Calcium-9.2 Phos-3.0 Mg-2.3
___ 05:02AM BLOOD tacroFK-8.9

IMAGING:
-CT A/P w/o contrast (___):
IMPRESSION: 
1. No acute intra-abdominal process.  No evidence of bowel 
obstruction or 
focal fluid collection. 
2. Diverticulosis without evidence of diverticulitis. 

MICRO:
___ 8:20 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
      ___.    >100,000 CFU/mL. 
         PREDOMINATING ORGANISM INTERPRET RESULTS WITH CAUTION. 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         PREDOMINATING ORGANISM INTERPRET RESULTS WITH CAUTION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ___
                             |          ESCHERICHIA COLI
                             |          |   
AMIKACIN--------------     4 S
AMPICILLIN------------                8 S
AMPICILLIN/SULBACTAM--                4 S
CEFAZOLIN-------------              <=4 S
CEFEPIME--------------       R      <=1 S
CEFTAZIDIME-----------     4 S      <=1 S
CEFTRIAXONE-----------    32 R      <=1 S
CIPROFLOXACIN---------   =>4 R   <=0.25 S
GENTAMICIN------------  =>16 R      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
NITROFURANTOIN--------             <=16 S
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------  =>16 R      <=1 S
TRIMETHOPRIM/SULFA----  =>16 R      <=1 S

 
Brief Hospital Course:
___ year old woman with a history of HTN, HLD, CAD, paroxysmal
afib, hemorrhagic stroke, s/p renal transplant (___), c. diff,
UTIs, chronic back pain and wheelchair bound at baseline
who presented with nausea, emesis, diarrhea and worsening lower
abdominal pain with evaluation concerning for possible UTI and 
depression.

#Concern for UTI vs bladder colonization:
Patient with history of MDR UTIs. In the setting of abdominal 
pain, a urinalysis was obtained which showed large leukocyte 
esterase and negative nitrites. However, she had no other 
infectious symptoms such as leukocytosis, fever, or dysuria. She 
was initially treated with meropenem, narrowed to CTX given low 
clinical suspicion of infection. She was discharged on 
ciprofloxacin to complete a x7 day course (last day ___. 
She should NOT take tizanidine while on ciprofloxacin; she 
should wait 24hours after completing antibiotic therapy before 
resuming. She should have her tacrolimus level checked on 
___.

#Abdominal pain:
#Nausea
Per patient, she had increased pain for x2-3 days prior to 
admission. Exam was unrevealing, CT was negative for acute 
process. Her pain remained stable to improved during 
hospitalization without titration of her home pain medication 
regimen. She was able to tolerate po without difficulty.

#Depression:
#Goals of care
Patient has history of depression, and is on duloxetine. She 
discussed desire to transition to hospice care. She met with 
case management, who provided recommendations for hospice care 
and she will meet with her facility's social worker.

#Low back pain:
#Groin pain
#Chronic pain syndrome
She has persistent musculoskeletal pain; flank tenderness 
complicated by being wheelchair bound due to her symptoms. She 
is followed by
Palliative Care as an outpatient. She was continued on her home 
pain regimen.

#S/p Renal Transplant:
Her graft remained well functioning during her hospitalization. 
She was continued on her home tacrolimus and predisone.

#Hypothyroidism:
TSH within normal limits. She was continued on her home 
levothyroxine 88 mcg QD

#Paroxysmal atrial fibrillation:
Not on home anti-coagulation. She was continued on her home 
metoprolol succinate 25 mg PO QD

#CAD/HLD
She was continued on her home ASA 81 QD, rosuvastatin 40mg QD

#H/o duodenal polyps
#Gastritis:
Last seen by ___ in ___. Declining repeat EGD or other
procedures. She was continued on her home omeprazole 40mg BID, 
dicyclomine 10mg PO TID, and sucralfate

# H/o panic attacks
She was continued on her home clonazepam 0.5 mg PO BID

# H/o herpes zoster
She was continued on her home acyclovir 200 mg PO QD

# Nutrition
She was continued on her home vitamins

TRANSITIONAL ISSUES:
[] She is interested in transitioning to hospice care; please 
assist in ongoing discussion/planning with social work
[] Antibiotic regimen: ciprofloxacin 500mg q12h x7 day course 
(last day ___
[] Tizanidine HELD while on ciprofloxacin; she can restart 
tizanidine 24 hours after completion of the antibiotic regimen
[] Will need tacrolimus level checked on ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Ascorbic Acid ___ mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Calcitriol 0.25 mcg PO BID 
5. DICYCLOMine 10 mg PO TID 
6. Levothyroxine Sodium 88 mcg PO DAILY 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Omeprazole 40 mg PO BID 
10. PredniSONE 5 mg PO DAILY 
11. Tizanidine 4 mg PO TID:PRN muscle spasm 
12. Rosuvastatin Calcium 40 mg PO QD 
13. Vitamin A 8000 UNIT PO DAILY 
14. Vitamin D 1000 UNIT PO DAILY 
15. Vitamin E 1000 UNIT PO DAILY 
16. Fentanyl Patch 100 mcg/h TD Q72H 
17. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
18. Zolpidem Tartrate 5 mg PO QHS 
19. Sucralfate 1 gm PO Q8H:PRN abdominal pain 
20. Tacrolimus 0.5 mg PO Q12H 
21. Lidocaine 5% Ointment 1 Appl TP BID 
22. ClonazePAM 0.5 mg PO BID:PRN anxiety 
23. DULoxetine 30 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
Last day ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*7 Tablet Refills:*0 
2.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
3.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
4.  Acyclovir 400 mg PO Q12H  
5.  Ascorbic Acid ___ mg PO BID  
6.  Aspirin 81 mg PO DAILY  
7.  Calcitriol 0.25 mcg PO BID  
8.  ClonazePAM 0.5 mg PO BID:PRN anxiety  
9.  DICYCLOMine 10 mg PO TID  
10.  DULoxetine 30 mg PO DAILY  
11.  Fentanyl Patch 100 mcg/h TD Q72H  
12.  Levothyroxine Sodium 88 mcg PO DAILY  
13.  Lidocaine 5% Ointment 1 Appl TP BID  
14.  Metoprolol Succinate XL 25 mg PO DAILY  
15.  Multivitamins W/minerals 1 TAB PO DAILY  
16.  Omeprazole 40 mg PO BID  
17.  PredniSONE 5 mg PO DAILY  
18.  Rosuvastatin Calcium 40 mg PO QD  
19.  Sucralfate 1 gm PO Q8H:PRN abdominal pain  
20.  Tacrolimus 0.5 mg PO Q12H  
21.  Vitamin A 8000 UNIT PO DAILY  
22.  Vitamin D 1000 UNIT PO DAILY  
23.  Vitamin E 1000 UNIT PO DAILY  
24.  Zolpidem Tartrate 5 mg PO QHS  
25. HELD- Tizanidine 4 mg PO TID:PRN muscle spasm  This 
medication was held. Do not restart Tizanidine until ___ hours after you complete your antibiotics
26.Outpatient Lab Work
Please check CHEM-10, tacrolimus trough
Dx: renal transplant ICD-10: ___
Fax results to Renal ___ at ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
-You had increased abdominal pain

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You received antibiotics due to concern for a urinary tract 
infection
-You met with the case manager to discuss your current living 
situation and options for transfer

WHAT SHOULD I DO WHEN I GO HOME?
-Work with the Social Worker at your facility to discuss 
transition to another facility 
-Have your lab work checked this ___ and faxed 
to the Transplant Nephrology center at ___ 
-Take your medications as prescribed
-Keep your follow up appointments with your team of doctors

___ for letting us be a part of your care!
Your ___ Liver Team
 
Followup Instructions:
___